US08114872B2
2-(2-[1,2,3]Triazol-1-yl-ethyl)-isoindole-1,3-dione
Add 1H-1,2,3-triazole (250 g, 3.51 mol), N-(2-bromoethyl) phthalimide (942 g, 3.52 mol) and 1500 mL of DMF to a 5-L round bottom flask fitted with a mechanical stirrer, a nitrogen inlet and temperature probe; cool the mixture to 15° C. Stir the mixture until all the solids are nearly dissolved and then cool in an ice-water bath. Add cesium carbonate (1145 g, 3.51 mol) in portions over 10 min. The reaction mixture exotherms to 21° C. Allow the mixture to stir and come to RT overnight. Pour the reaction mixture into a 12-L flask containing 8 L of ice-water. Stir the suspension for 30 min and then filter and rinse the solid with 3 L of water. Air-dry for 2 h. Recrystallize the mixture of regioisomers from 7 L of absolute ethanol. Isolate the solid by filtration and air-dry. Recrystallize again from 16 L of absolute ethanol. Again isolate the solid by filtration and rinse with fresh ethanol (1000 mL). Vacuum-dry the solid at 40° C. to give the title compound as a white solid, 292.7 g (34%). MS (EI) m/z 243 [M+1]+.

reactant | 1H-1,2,3-triazole | 3.51 mol, 250 g | N1N=NC=C1 | C2H3N3
reactant | N-(2-bromoethyl) phthalimide | 3.52 mol, 942 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | cesium carbonate | 3.51 mol, 1145 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 1500 mL | CN(C)C=O | C3H7NO
product | 2-(2-[1,2,3]Triazol-1-yl-ethyl)-isoindole-1,3-dione | N1(N=NC=C1)CCN1C(C2=CC=CC=C2C1=O)=O | C12H10N4O2
